US06949542B2
{2-[3-Oxo-3-(3-pyridazin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J3) (207 mg, 0.75 mmol) and 3-oxo-3-(3-pyridazin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K27) (224 mg, 0.75 mmol) according to the general procedure M. Obtained as a white solid (250 mg, 67%).

reactant | (2-amino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 207 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)N)=O | C12H15F3N2O2
reactant | 3-oxo-3-(3-pyridazin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 224 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=NC=CC1)=O)=O | C17H18N2O3
product | {2-[3-Oxo-3-(3-pyridazin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1N=NC=CC1)=O)=O)=O | C25H23F3N4O4
